US07994196B2
4-(2-Thienyl)piperazine-1-carboxylic acid tert-butyl ester (700 mg) was dissolved in ethyl acetate (4 ml), a 4N hydrochloric acid-ethyl acetate solution (4 ml) was added, and the mixture was stirred at room temperature for 1.5 hr. The precipitated solid was collected by filtration, washed with ethyl acetate and dried to give 1-(2-thienyl)piperazine hydrochloride (532 mg, yield 98%).

reactant | 4-(2-Thienyl)piperazine-1-carboxylic acid tert-butyl ester | 700 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=CC1 | C13H20N2O2S
reactant | hydrochloric acid ethyl acetate | 4N, 4 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-thienyl)piperazine hydrochloride | 532 mg, yield 98% | Cl.S1C(=CC=C1)N1CCNCC1 | InChI=1S/C8H12N2S.ClH/c1-2-8(11-7-1)10-5-3-9-4-6-10;/h1-2,7,9H,3-6H2;1H
